US06610518B2
Sodium hydride (60% oil dispersion 354 mg) was cautiously added to a suspension of N-[6-chloro-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-4,4-dimethyl-1-pentanesulfonamide (580 mg) in dry methanol (5 ml) in a 10 mm Wheaton reacti-vial™ and the resulting mixture stirred at 105° C. for 4 hours. The reaction was then partitioned between ethyl acetate (20 ml) and 2N aqueous hydrochloric acid (10 ml) and the organic phase separated. The aqueous was extracted with ethyl acetate (20 ml ) and the organic phases combined, washed (water 2×20 ml), dried (Na2SO4) and evaporated under reduced pressure. Column chromatography on silica eluting with a solvent gradient of dichloromethane:methanol 100:0 changing to 98.5:1.5 gave N-[6-methoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-4,4-dimethyl-1-pentanesulfonamide as an off-white coloured solid (189 mg).

reactant | Sodium hydride | 354 mg | [H-].[Na+]
reactant | N-[6-chloro-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-4,4-dimethyl-1-pentanesulfonamide | 580 mg | ClC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)CCCC(C)(C)C)OC1=C(C=CC=C1)OC | C22H26ClN5O4S
reactant | methanol | 5 ml | CO | CH4O
product | N-[6-methoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-4,4-dimethyl-1-pentanesulfonamide | 189 mg | COC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)CCCC(C)(C)C)OC1=C(C=CC=C1)OC | C23H29N5O5S
